Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet / simvastatin
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
Cardiac Catheterization ___
 
History of Present Illness:
___ year old female with hx nonischemic CM s/p BivICD (___), CAD 
s/p RCA stent (___), HTN, presenting to ___ today with 
c/o chest pain, was found to have positive troponin c/f ACS, 
transferred for cath.  
Patient reports onset of left sided shoulder pain 2 nights ago 
that awoke her from sleep, describes it as sharp, ___, 
radiating down left arm. Pain was nonpleuritic, not associated 
with exertion. Lasted approx. 30 mins and went away on its own.  

Yesterday at 2PM patient was sitting at a desk at work when 
noticed onset of bilateral jaw pain radiating to her left chest 
and arm, rates it ___, not associated with exertion. Pain 
lasted two hours so patient took 2 SL nitro with moderate 
relief. Denies nausea or vomiting, no palpitations, no dyspnea. 
No fevers or chills, no headache/dizziness or lightheadedness. 
In terms of exertional capacity, patient reports she is fairly 
limited due to her CHF, says she can only walk about 1 block 
before getting short of breath, reports stable 2 pillow 
orthopnea. Denies any recent weight gain or leg swelling. She 
does report that this jaw pain was similar to prior chest pain 
she experienced in ___ that required stent placement.  
Her husband picked her up from work and out of concern for 
cardiac problem they presented to ___.  
Patient presented to ___ with these complaints where 
ultrasensitive troponin was sent and returned positive at 0.06. 
She was given full dose ASA, 600 mg plavix, atorvastatin 80mg 
and started on heparin and transferred.  
In our ED intial vitals were: 97.0 86 127/83 16 100% 4L . Labs 
were notable for CBC with WBC 19.5, chem-7 with K 3.0, Cl 93, 
Bun/Cr ___. Trop t was negative x1. u/a showed large leuk and 
few bacteria with some epis. Patient was continued on heparin 
gtt, given morphine for mild chest pain as well as ceftriaxone.  

On the floor patient currently has no complaints. Says the last 
episode of chest pain was in our ED and rated this as mild.  Pt 
reports mild substernal discomfort with inspiration that seems 
more like congestion from an URI. 

 
Past Medical History:
Non-ischemic CM, EF 25% (___) s/p BiV ICD (___)  
Perioperative afib in setting of pacer placement  
H/O Viral myocarditis  
HTN  
HLD  
H/O Apical thrombus previously on coumadin 
CAD s/p MI ___, RCA stent ___ and ardiac cath ___ moderate 
CAD with 50% mid Diagonal disease; ___ mid LCX disease; RCA 
stent widely patent.  
GERD  
Renal artery stenosis  
Tonsillectomy  
Appendectomy  
Splenic infarction  
Brain aneurysm s/p clip  
Back surgery age ___

 
Social History:
___
Family History:
Significant for CAD in father, GF died of MI at age ___. 1 uncle 
with known CAD died of sudden death at age ___. mother had breast 
cancer, and had a small MI at age ___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals- 98.6 102/50 hr 68 rr 18 91% RA  
General- Alert, oriented, no acute distress  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- CTAB without crackles, good airmovement, no wheezing  
CV- RRR, no m/r/g appreciated  
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro- CNs2-12 intact, strength ___ in UE and ___ b/l

DISCHARGE PHYSICAL EXAM:
General- Alert, oriented, no acute distress  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- CTAB without crackles, good airmovement, no wheezing  
CV- RRR, no m/r/g appreciated  
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema, right radial access bandaged c/d/i  
Neuro- CNs2-12 intact, strength ___ in UE and ___ b/l

 
Pertinent Results:
ADMISSION LABS:
===============
___ 08:35PM BLOOD WBC-19.5*# RBC-3.81* Hgb-12.1 Hct-34.7* 
MCV-91 MCH-31.8 MCHC-34.9 RDW-13.2 Plt ___
___ 08:35PM BLOOD Neuts-71.6* ___ Monos-6.4 Eos-0.7 
Baso-0.5
___ 08:35PM BLOOD Plt ___
___ 08:35PM BLOOD ___ PTT-76.2* ___
___ 08:35PM BLOOD Glucose-131* UreaN-24* Creat-1.3* Na-134 
K-3.0* Cl-93* HCO3-27 AnGap-17

PERTINENT LABS:
===============
___ 05:30AM BLOOD WBC-13.3* RBC-3.73* Hgb-11.0* Hct-34.1* 
MCV-92 MCH-29.5 MCHC-32.3 RDW-13.2 Plt ___
___ 05:30AM BLOOD Glucose-115* UreaN-20 Creat-1.2* Na-136 
K-4.5 Cl-95* HCO3-31 AnGap-15
___ 09:00AM BLOOD CK-MB-2 cTropnT-<0.01
___ 08:35PM BLOOD cTropnT-0.01

DISCHARGE LABS:
===============
___ 05:30AM BLOOD WBC-13.3* RBC-3.73* Hgb-11.0* Hct-34.1* 
MCV-92 MCH-29.5 MCHC-32.3 RDW-13.2 Plt ___
___ 05:30AM BLOOD Plt ___
___ 05:30AM BLOOD PTT-52.2*
___ 05:30AM BLOOD Glucose-115* UreaN-20 Creat-1.2* Na-136 
K-4.5 Cl-95* HCO3-31 AnGap-15
___ 09:00AM BLOOD CK(CPK)-63
___ 05:30AM BLOOD Mg-2.6

MICRO:
======
___ 10:00 pm BLOOD CULTURE

   Blood Culture, Routine (Pending):

___ 10:15 pm BLOOD CULTURE      2 OF 2. 

   Blood Culture, Routine (Pending): 

___ 10:15 pm URINE

   URINE CULTURE (Pending): 

IMAGING/STUDIES:
================
Chest X-Ray PA and Lateral ___
FINDINGS: 
Atrio biventricular defibrillator leads are in standard position 
and unchanged in appearance.  The cardiomediastinal silhouette 
and hilar contours are normal.  The pleural surfaces are clear 
without effusion or pneumothorax.   
  
IMPRESSION:   
No evidence of pneumonia or acute cardiopulmonary process. 

Cardiac Catheterization ___
Findings
ESTIMATED blood loss: <30 cc
Hemodynamics (see above): Low normal systemic arterial BP. Upper
normal left-sided filling pressure.  
Coronary angiography:  right dominant
LMCA:  Patent
LAD:  Mild diffuse luminal irregularities. The mid vessel at the
diag origin is markedly tortuous and ___. 20% ulcerated
(versus calcified) plaque in the proximal LAD at the takeoff of
the D1. The D1 is a small branch. The D2 is a large tortuous
bifurcating branch. Several views obtained to lay out the LAD-D2
bifurcation. There is 40-50% tapering just beyond the origin of
the diag and 50% at the LAD. TIMI 3 flow noted throughout.
LCX:  Large system gives two large bifurcating OM branches.
___ proximal to the OM1 origin. TIMI 3 flow. 
RCA:  20% ostial. The rest of the vessel has mild luminal
irregularities without significant lesions. Somewhat sluggish
flow suggestive of microvascular dysfunction. 

Assessment & Recommendations
1.Moderate CAD and probably microvascular dysfunction.
2.Ulcerated plaque in the proximal LAD. Cold be a nidus for 
spasm. 
___ Rx including dual antiplatelets, statins and 
spasmolytics.
4.Consider outpatient stress test if symptoms recur to assess 
significance of the mid LAD and D2 moderate lesions. 
5.Discussed with Dr. ___ 

 
___ Hospital Course:
___ year old female with hx. nonischemic CM s/p BivICD (___), 
CAD s/p RCA stent (___) presented to ___ today with c/o 
chest pain, was found to have positive ultrasensitive troponin 
to 0.06 concerning for ACS, transferred for cardiac 
catheterization at ___.
 
ACUTE ISSUES:
============= 
# Unstable angina: Pt presented with a history and findings 
concerning for unstable angina in a patient with several risk 
factors. Pt was found to have a positive ultrasensitive troponin 
at OSH, but troponins were found to be negative x 2 with no 
evidence of ischemia on EKG at ___. Given the pt's reported 
history and the fact that her pain mimicked her past cardiac 
ischemic pain, she was taken to the cath lab and found to have 
stable moderate CAD, probable microvascular dysfunction, and an 
ulcerated plaque in the proximal LAD deemed to be a possible 
nidus for
vasospasm.  No interventions were performed.  It was believed 
that vasospasm around the ulcerated plaque or resolved 
thrombosis at the ulcerated plaque may have caused pt's 
symptoms.  Post procedure, patient was started on Plavix 75mg 
daily and Imdur 30mg daily for vasospasm.  In addition, she was 
continued on her home ASA and metoprolol.  Pt was started on 
atorvastatin high dose due to concern for ACS, which was changed 
to home rosuvastatin prior to discharge.  Pt's losartan was 
transiently held in the setting of slightly increased Cr, but 
was restarted at discharge with Cr at baseline.  Pt will have 
follow up with PCP/Cardiologist, Dr. ___, within 1 
week of discharge.       
 
# Leukocytosis: Pt was found to have a leukocytosis to 19.5 on 
presentation.  UA demonstrated large leuk esterase and many 
WBCs, however pt denied symptoms and no other signs of infection 
were found.  It is possible that pt's leukocytosis was 
attributable to reactive leukocytosis in the setting of pt's 
transient cardiac ischemia.  However, pt was treated briefly 
with Ceftriaxone, which was discontinued prior to discharge.  
Pt's leukocytosis was trending to baseline at discharge.

# Azotemia:  Pt presented with Cr 1.3 from baseline 1.1.  Pt's 
losartan was held on admission, and restarted prior to discharge 
with pt's Cr back at baseline. 
 
CHRONIC ISSUES:
=============== 
# CAD: As discussed, pt was continued on her home ASA, 
metoprolol, and statin.  Pt's losartan was held briefly and 
restarted prior to discharge.  Plavix 75 mg daily and Imdur 30mg 
daily were added at discharge.   
  
# CHF: Pt was continued on home metoprolol and digoxin.  Pt's 
losartan and lasix were held briefly, and restarted prior to 
discharge.
  
# Afib: Pt was continued on home sotalol, metoprolol, and ASA.  
  
# T2DM: Pt's home metformin was held, with BG controlled with 
SSI while hospitalized.  

# GERD: Pt was continued on home ranitidine 
 
# Hypothyroidism: Pt was continued on home levothyroxine   

# HLD: Pt was changed to atorvastatin 80 mg due to concern for 
ACS, however was changed back to home rosuvastatin on discharge. 
 

TRANSITIONAL ISSUES:
====================
- Pt was discharged on Plavix 75 mg PO daily
- Pt was discharged on Imdur 30 mg PO daily, which can be 
titrated up 
- Pt will need to follow up with PCP/Cardiologist Dr. ___ 
___ within 1 week of discharge
- Consider outpatient stress test if symptoms recur to assess
significance of the mid LAD and D2 moderate lesions. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rosuvastatin Calcium 20 mg PO DAILY 
2. Metoprolol Succinate XL 25 mg PO HS 
3. Losartan Potassium 25 mg PO HS 
4. Furosemide 80 mg PO DAILY 
5. Sotalol 40 mg PO BID 
6. Digoxin 0.125 mg PO QHS 
7. Nitroglycerin SL 0.4 mg SL PRN chest pain 
8. Ranitidine 75 mg PO BID 
9. Caltrate 600 + D (calcium carbonate-vitamin D3) 600 mg (1,500 
mg)-800 unit oral daily 
10. Aspirin 81 mg PO DAILY 
11. MetFORMIN (Glucophage) 500 mg PO BID 
12. Levothyroxine Sodium 25 mcg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Digoxin 0.125 mg PO QHS 
3. Levothyroxine Sodium 25 mcg PO DAILY 
4. Metoprolol Succinate XL 25 mg PO HS 
5. Nitroglycerin SL 0.4 mg SL PRN chest pain 
6. Ranitidine 75 mg PO BID 
7. Sotalol 40 mg PO BID 
8. Caltrate 600 + D (calcium carbonate-vitamin D3) 600 mg (1,500 
mg)-800 unit oral daily 
9. Furosemide 80 mg PO DAILY 
10. Rosuvastatin Calcium 20 mg PO DAILY 
11. MetFORMIN (Glucophage) 500 mg PO BID 
12. Losartan Potassium 25 mg PO HS 
13. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
14. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
RX *isosorbide mononitrate [Imdur] 30 mg 1 tablet extended 
release 24 hr(s) by mouth once a day Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY 
#Unstable angina

SECONDARY
#Non-ischemic CM
#CAD
#HTN  
#HLD    
#GERD  
#Renal artery stenosis  
 
  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mrs. ___,

___ was a pleasure taking care of you during your stay at ___.  
You presented with chest pain consistent with unstable angina, 
and you were treated medically and then taken to the cardiac 
catheterization lab.  Catheterization demonstrated no changes in 
your coronary arteries, and no interventions were performed.  
The only notable finding was an ulcerated plaque in a proximal 
vessel that may have caused your vessels to spasm.  You will be 
discharged home on your previous medications, in addition to two 
new drugs:
Imdur 30 mg PO daily to prevent vasospasm
Plavix 75 mg PO daily for coronary artery disease. 

Please call your PCP/Cardiologist Dr. ___ to schedule a follow 
up appointment within 1 week of discharge.

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___